2145-07-20 07:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2145-7-19**] 06:13 PM
   --off pressors since 11pm with some hypotension responding to IVF
   boluses, becomes hypertensive (SBPs 140s) when stimulated
   -- O/N switched to PS vent with PEEP 5, FiO2 40%
   --low UOP which responded to IVF boluses
   Allergies: Tylenol
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2145-7-19**] 07:07 PM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-7-19**] 08:22 PM
   Fentanyl - [**2145-7-20**] 05:08 AM
   Midazolam (Versed) - [**2145-7-20**] 05:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-7-20**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 82 (79 - 94) bpm
   BP: 94/40(53) {84/34(48) - 150/57(83)} mmHg
   RR: 22 (0 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
    CVP: 14 (10 - 15)mmHg
   Mixed Venous O2% Sat: 92 - 92
   Total In:
                                                                  6,181 mL
                                                                  1,505 mL
   PO:
   TF:
   IVF:
                                                                  1,121 mL
                                                                  1,505 mL
   Blood products:
   Total out:
                                                                    517 mL
                                                                    204 mL
   Urine:
                                                                    347 mL
                                                                    204 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,664 mL
                                                                  1,301 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 350 (350 - 350) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 136
   PIP: 28 cmH2O
   Plateau: 23 cmH2O
   SpO2: 99%
   ABG: 7.32/39/120/22/-5
   Ve: 6.8 L/min
   PaO2 / FiO2: 300
   Physical Examination
   General: Intubated, opens eyes spontaneously
   Lungs- Bilateral rhonchi
   Heart- Regular rate and rhythm, no m/r/g
   Abd- BS+, nondistended, soft
   Ext- warm, well perfused
   Labs / Radiology
   210 K/uL
   8.4 g/dL
   94 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.8 mEq/L
   20 mg/dL
   113 mEq/L
   140 mEq/L
   25.9 %
   10.8 K/uL
        [image002.jpg]
                             [**2145-7-19**]  03:55 PM
                             [**2145-7-19**]  05:56 PM
                             [**2145-7-19**]  09:54 PM
                             [**2145-7-20**]  04:11 AM
   WBC
   11.7
   10.8
   Hct
   31
   26.9
   25.9
   Plt
   212
   210
   Cr
   0.6
   0.7
   TropT
   0.25
   TCO2
   21
   Glucose
   153
   94
   Other labs: PT / PTT / INR:12.5/38.1/1.1, CK / CKMB /
   Troponin-T:76/8/0.25, ALT / AST:32/33, Alk Phos / T Bili:79/0.6, Lactic
   Acid:0.9 mmol/L, Albumin:2.7 g/dL, LDH:139 IU/L, Ca++:7.0 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.0 mg/dL
   .
   Urinary legionella neg
   Urine and blood cx pending
   CXR: ET tube in place, OG tube in position, diffuse multifocal
   bilateral areas of infiltrate
   Assessment and Plan
 OLIGURIA/ANURIA
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   [**Age over 90 **] y/o F with PMHx of Afib and HTN who presented with fever and
   multifocal infiltrates, now intubated for hypoxic respiratory failure.
   .
   # Hypoxic Resp Failure:  Respiratory status has improved with better
   oxygenation, although required more sedation on PSV; will switch to
   assist control. Continues to have significant secretions.  WBC has come
   down dramatically. Tidal volumes are small off of pressure support.
   Will need to do SBT's with extra tubing removed from the vent setup as
   possibly too much dead space for her. Airway resistance also likely
   high with some wheezing on exam and thick secretions being suctioned.
   Multifocal infiltrates on CXR.  Per HCP, pt had recent PNA though
   unclear if aspiration at baseline.
   - cont Vanc/ Zosyn/Azithro to cover HAP and atypical organisms
   - f/u urine/blood and sputum cx
   - SBTs with removal of extra tubing
   - minimize sedation
   - continue standing nebs
   - VAP bundle
   - add bronchodilator
   .
   # Hypotension/low urine output: Etiology likely multifactorial.
   Possibly due to sepsis but unlikely given normal lactate and absence of
   tachycardia.  CVPs around 10.  Some hct drop since admission but
   suspect hemoconcentration on admission.  Urine output may be varying
   with blood pressure, suggestive of a discrete vascular lesion in the
   renal artery. Creat improved from admission.
   - goal CVP>[**9-27**]
   - bolus 500-1L prn
   - monitor UOP, goal >30cc/hr
   - trend lactates on ABGs
   .
   # EKG changes: Pt with LVH and likely rate related ST depressions on
   admission.  First set of CE negative but Trop T elevated to 0.25 on
   second set.  Repeat EKG normal. Suspect demand ischemia.
   - trend troponins
   .
   # Anemia: Hct has been trending down with IVF.  Unclear baseline and no
   e/o active bleeding currently.
   - send iron studies
   - guaic stools
   - type and screen current
   -f/u pm hct
   .
   # Afib: Pt not on any rate control agents at baseline and not
   anticoagulated per records
   - monitor HR, holding betablockers for now given hypotension
   .
   # Hypothyroidism: continue Synthroid 50mg daily
   .
   # FEN: Bolus LR to maintain CVPs
   -NPO for now
   - replete electrolytes aggressively
   - nutrition consult for TFs
   .
   # Prophylaxis: heparin sc tid, famotidine
   .
   # Access: 2 peripherals, R subclavian CVL
   .
   # Code: full
   .
   # Communication: daughter-[**Name (NI) 4198**] [**Name (NI) **]
   .
   # Disposition: ICU for now
   ICU Care
   Nutrition:  NPO for now, starting TF pending nutrition recs
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-7-19**] 06:13 PM
   18 Gauge - [**2145-7-19**] 06:15 PM
   20 Gauge - [**2145-7-19**] 06:16 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Communication:  with daughter [**Name (NI) 4198**] [**Known lastname **]
   [**Last Name (NamePattern1) 156**] status: Full code
   Disposition: ICU

2145-07-21 07:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2145-7-21**] 01:50 AM
 INVASIVE VENTILATION - STOP [**2145-7-21**] 01:52 AM
 INVASIVE VENTILATION - START [**2145-7-21**] 02:25 AM
   - back on AC, weaned down sedation
   - NSTEMI, enzymes positive, started on statin, EKG changes resolved
   - self extubated at 2AM, RR in 30s, wheezing, was reintubated
   Allergies:
   Acetaminophen
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2145-7-19**] 07:07 PM
   Cefipime - [**2145-7-20**] 10:00 AM
   Vancomycin - [**2145-7-20**] 10:45 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-7-20**] 02:06 PM
   Propofol - [**2145-7-21**] 02:15 AM
   Fentanyl - [**2145-7-21**] 02:40 AM
   Midazolam (Versed) - [**2145-7-21**] 02:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-7-21**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 112 (66 - 112) bpm
   BP: 136/40(64) {85/34(46) - 170/91(112)} mmHg
   RR: 15 (14 - 24) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 60 Inch
    CVP: 16 (8 - 16)mmHg
   Total In:
                                                                  2,131 mL
                                                                    317 mL
   PO:
                                                                    120 mL
   TF:
                                                                    143 mL
                                                                     58 mL
   IVF:
                                                                  1,813 mL
                                                                    259 mL
   Blood products:
   Total out:
                                                                    774 mL
                                                                    140 mL
   Urine:
                                                                    774 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,357 mL
                                                                    177 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 330 (330 - 369) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.32/44/85.[**Numeric Identifier 299**]/21/-3
   Ve: 5.4 L/min
   PaO2 / FiO2: 213
   Physical Examination
   General: Intubated, opens eyes spontaneously
   Lungs- Bilateral rhonchi
   Heart- Regular rate and rhythm, no m/r/g
   Abd- BS+, nondistended, soft
   Ext- warm, well perfused
   Labs / Radiology
   289 K/uL
   9.2 g/dL
   120 mg/dL
   0.8 mg/dL
   21 mEq/L
   3.8 mEq/L
   21 mg/dL
   110 mEq/L
   140 mEq/L
   28.3 %
   14.7 K/uL
        [image002.jpg]
                             [**2145-7-19**]  03:55 PM
                             [**2145-7-19**]  05:56 PM
                             [**2145-7-19**]  09:54 PM
                             [**2145-7-20**]  04:11 AM
                             [**2145-7-20**]  08:09 AM
                             [**2145-7-20**]  03:32 PM
                             [**2145-7-20**]  07:45 PM
                             [**2145-7-21**]  01:18 AM
                             [**2145-7-21**]  03:54 AM
   WBC
   11.7
   10.8
   14.7
   Hct
   31
   26.9
   25.9
   26.5
   27.9
   28.3
   Plt
   [**Telephone/Fax (3) 8144**]
   Cr
   0.6
   0.7
   0.8
   TropT
   0.25
   0.19
   0.16
   0.16
   0.15
   TCO2
   21
   24
   24
   Glucose
   153
   94
   120
   Other labs: PT / PTT / INR:12.5/38.1/1.1, CK / CKMB /
   Troponin-T:48/4/0.15, ALT / AST:32/33, Alk Phos / T Bili:79/0.6, Lactic
   Acid:0.9 mmol/L, Albumin:2.7 g/dL, LDH:139 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.1 mg/dL
   .
   TIBC 130, ferritin 328, TRF 100
   Troponins: 0.25, 0.19, 0.16, 0.16, 0.15
   .
   Sputum gram stain: no microorg, >25 polys
   [**7-19**] urine cx neg,  later urine cx pending
   Blood cx pending
   MRSA screen pending
   .
   CXR:  L upper lobe circular opacity, R subclavian in RA, mild
   improvement in R middle lobe consolidation
   Assessment and Plan
 OLIGURIA/ANURIA
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   [**Age over 90 **] y/o F with PMHx of Afib and HTN who presented with fever and
   multifocal infiltrates, now intubated for hypoxic respiratory failure.
   .
   # Hypoxic Resp Failure:  Respiratory status has improved with better
   oxygenation, although required more sedation on PSV; will switch to
   assist control. Continues to have significant secretions.  WBC has come
   down dramatically. Tidal volumes are small off of pressure support.
   Will need to do SBT's with extra tubing removed from the vent setup as
   possibly too much dead space for her. Airway resistance also likely
   high with some wheezing on exam and thick secretions being suctioned.
   Multifocal infiltrates on CXR.  Per HCP, pt had recent PNA though
   unclear if aspiration at baseline.
   - cont Vanc/ Zosyn/Azithro to cover HAP and atypical organisms
   - f/u urine/blood and sputum cx
   - SBTs with removal of extra tubing
   - minimize sedation
   - continue standing nebs
   - VAP bundle
   - add bronchodilator
   .
   # Hypotension/low urine output: Etiology likely multifactorial.
   Possibly due to sepsis but unlikely given normal lactate and absence of
   tachycardia.  CVPs around 10.  Some hct drop since admission but
   suspect hemoconcentration on admission.  Urine output may be varying
   with blood pressure, suggestive of a discrete vascular lesion in the
   renal artery. Creat improved from admission.
   - goal CVP>[**9-27**]
   - bolus 500-1L prn
   - monitor UOP, goal >30cc/hr
   - trend lactates on ABGs
   .
   # NSTEMI: Troponins positive, statins started.  Pt with LVH and likely
   rate related ST depressions on admission.  First set of CE negative but
   Trop T elevated to 0.25 on second set.  Repeat EKG normal. Suspect
   demand ischemia.
   - trend troponins
   .
   # Anemia: Hct has been trending down with IVF.  Unclear baseline and no
   e/o active bleeding currently.
   - send iron studies
   - guaic stools
   - type and screen current
   -f/u pm hct
   .
   # Afib: Pt not on any rate control agents at baseline and not
   anticoagulated per records
   - monitor HR, holding betablockers for now given hypotension
   .
   # Hypothyroidism: continue Synthroid 50mg daily
   .
   # FEN: TFs
   .
   # Prophylaxis: heparin sc tid, famotidine
   .
   # Access: 2 peripherals, R subclavian CVL
   .
   # Code: full
   .
   # Communication: daughter-[**Name (NI) 4198**] [**Name (NI) **]
   .
   # Disposition: ICU for now
   ICU Care
   Nutrition: TFs
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-7-19**] 06:13 PM
   18 Gauge - [**2145-7-19**] 06:15 PM
   20 Gauge - [**2145-7-19**] 06:16 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer:  famotidine
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-07-21 12:08:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory failure, pneumonia.
   HPI:
   Patient self-extubated at 2 AM. Had wheezing, was reintubated. Urine
   output decreased last night. Given fluid boluses with increase in CVP;
   despite this, BP down this AM. UO only 25-30 cc/hr.
   24 Hour Events:
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2145-7-21**] 01:50 AM
 INVASIVE VENTILATION - STOP [**2145-7-21**] 01:52 AM
 INVASIVE VENTILATION - START [**2145-7-21**] 02:25 AM
   History obtained from Medical records
   Patient unable to provide history: Language barrier, Intubated
   Allergies:
   Acetaminophen
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2145-7-19**] 07:07 PM
   Vancomycin - [**2145-7-21**] 08:30 AM
   Cefipime - [**2145-7-21**] 09:45 AM
   Infusions:
   Other ICU medications:
   Propofol - [**2145-7-21**] 02:15 AM
   Fentanyl - [**2145-7-21**] 02:40 AM
   Midazolam (Versed) - [**2145-7-21**] 02:50 AM
   Heparin Sodium (Prophylaxis) - [**2145-7-21**] 08:00 AM
   Other medications:
   heparin sc, famotidine, colace, albuterol, ASA, simvastatin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-7-21**] 12:04 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 69 (66 - 112) bpm
   BP: 87/34(47) {85/33(46) - 170/91(112)} mmHg
   RR: 14 (14 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
   CVP: 9 (4 - 16)mmHg
   Total In:
                                                                  2,131 mL
                                                                  1,649 mL
   PO:
                                                                    120 mL
   TF:
                                                                    143 mL
                                                                     58 mL
   IVF:
                                                                  1,813 mL
                                                                  1,510 mL
   Blood products:
   Total out:
                                                                    774 mL
                                                                    280 mL
   Urine:
                                                                    774 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,357 mL
                                                                  1,369 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 330 (330 - 348) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 25 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.32/44/85.[**Numeric Identifier 299**]/21/-3
   Ve: 5.1 L/min
   PaO2 / FiO2: 213
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic, Frail
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : , Diminished: ,
   No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent edema, Left: Absent edema, No(t) Cyanosis,
   No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): Not able to assess, Movement:
   Not assessed, Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   289 K/uL
   120 mg/dL
   0.8 mg/dL
   21 mEq/L
   3.8 mEq/L
   21 mg/dL
   110 mEq/L
   140 mEq/L
   28.3 %
   14.7 K/uL
        [image002.jpg]
                             [**2145-7-19**]  03:55 PM
                             [**2145-7-19**]  05:56 PM
                             [**2145-7-19**]  09:54 PM
                             [**2145-7-20**]  04:11 AM
                             [**2145-7-20**]  08:09 AM
                             [**2145-7-20**]  03:32 PM
                             [**2145-7-20**]  07:45 PM
                             [**2145-7-21**]  01:18 AM
                             [**2145-7-21**]  03:54 AM
   WBC
   11.7
   10.8
   14.7
   Hct
   31
   26.9
   25.9
   26.5
   27.9
   28.3
   Plt
   [**Telephone/Fax (3) 8144**]
   Cr
   0.6
   0.7
   0.8
   TropT
   0.25
   0.19
   0.16
   0.16
   0.15
   TCO2
   21
   24
   24
   Glucose
   153
   94
   120
   Other labs: PT / PTT / INR:12.5/38.1/1.1, CK / CKMB /
   Troponin-T:48/4/0.15, ALT / AST:32/33, Alk Phos / T Bili:79/0.6, Lactic
   Acid:0.9 mmol/L, Albumin:2.7 g/dL, LDH:139 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR: infiltrates somewhat more prominent bilaterally
   Assessment and Plan
 OLIGURIA/ANURIA
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   HYPOTENSION
   ACUTE RESPIRATORY FAILURE
   PNEUMONIA
   ANEMIA
   =========================
   Patient's chest exam sounds better today than yesterday. Oxygenation is
   accpetable. Minimal secretions on suctioning. Will reduce sedation and
   see if she can go back to PSV today. CXR does show some worsening of
   her infiltrates which may represent natural hx of the infection.
   Hct drifting down. Not at transfusion threshold.
   Low BP and UO today. CVP had been down overnight. Getting fluid
   boluses. ECG without significant change. Lactate normal arguing against
   sepsis.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-7-19**] 06:13 PM
   18 Gauge - [**2145-7-19**] 06:15 PM
   20 Gauge - [**2145-7-19**] 06:16 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill
 40 mins

2145-07-22 07:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Pt self extubated approx 4pm. Anesthesia re-intubated. Called daughter
   to discuss goals of care. Daughter to speak with her sister and call us
   back.
   -A line not placed.
   -Added meropenem for ESBL (extended spectrum beta lactamase) coverage
   for her pneumonia because no improvement.
   -Added cipro for double coverage for pseudomonas.
   -TWI in V3 - repeat EKG on [**7-22**]; troponin decreasing today
   -on exam, her index fingers look a little blue. Radial pulses intact
   (1+ L radial, dopplerable R radial)
   Allergies:
   Acetaminophen
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2145-7-19**] 07:07 PM
   Vancomycin - [**2145-7-21**] 08:30 AM
   Cefipime - [**2145-7-21**] 09:45 AM
   Ciprofloxacin - [**2145-7-21**] 06:20 PM
   Azithromycin - [**2145-7-21**] 08:09 PM
   Meropenem - [**2145-7-22**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2145-7-21**] 12:30 PM
   Heparin Sodium (Prophylaxis) - [**2145-7-21**] 02:00 PM
   Furosemide (Lasix) - [**2145-7-21**] 06:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-7-22**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.2
C (97.2
   HR: 86 (65 - 108) bpm
   BP: 122/53(70) {87/33(47) - 170/67(108)} mmHg
   RR: 14 (13 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
    CVP: 14 (6 - 14)mmHg
   Total In:
                                                                  3,407 mL
                                                                    400 mL
   PO:
   TF:
                                                                    271 mL
                                                                    139 mL
   IVF:
                                                                  3,056 mL
                                                                    261 mL
   Blood products:
   Total out:
                                                                  3,285 mL
                                                                    560 mL
   Urine:
                                                                  3,285 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    122 mL
                                                                   -160 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 298 (298 - 298) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 64
   PIP: 27 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.31/44/90.[**Numeric Identifier 299**]/20/-4
   Ve: 5.8 L/min
   PaO2 / FiO2: 225
   Physical Examination
   General: Intubated, sedated
   Lungs- Bilateral rhonchi, some improvement from yesterday
   Heart- Regular rate and rhythm, no m/r/g
   Abd- BS+, nondistended, soft
   Ext- cool, pink , slight cap refill delay
   Labs / Radiology
   300 K/uL
   9.1 g/dL
   124 mg/dL
   0.8 mg/dL
   20 mEq/L
   3.6 mEq/L
   17 mg/dL
   112 mEq/L
   140 mEq/L
   29.2 %
   14.8 K/uL
        [image002.jpg]
                             [**2145-7-19**]  05:56 PM
                             [**2145-7-19**]  09:54 PM
                             [**2145-7-20**]  04:11 AM
                             [**2145-7-20**]  08:09 AM
                             [**2145-7-20**]  03:32 PM
                             [**2145-7-20**]  07:45 PM
                             [**2145-7-21**]  01:18 AM
                             [**2145-7-21**]  03:54 AM
                             [**2145-7-21**]  11:04 PM
                             [**2145-7-22**]  04:08 AM
   WBC
   11.7
   10.8
   14.7
   14.8
   Hct
   26.9
   25.9
   26.5
   27.9
   28.3
   29.2
   Plt
   [**Telephone/Fax (3) 8158**]00
   Cr
   0.6
   0.7
   0.8
   0.8
   TropT
   0.25
   0.19
   0.16
   0.16
   0.15
   TCO2
   21
   24
   24
   23
   Glucose
   153
   94
   120
   109
   124
   Other labs: PT / PTT / INR:12.5/38.1/1.1, CK / CKMB /
   Troponin-T:52/4/0.15, ALT / AST:32/33, Alk Phos / T Bili:79/0.6, Lactic
   Acid:0.9 mmol/L, Albumin:2.7 g/dL, LDH:139 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   .
   Sputum gram stain: no microorg, >25 polys; cx pending
   [**7-19**] urine cx neg x 2- second with skin contamination
   Blood cx pending
   MRSA screen positive
   .
   CXR:  ET tube in place, R subclavian in RA, worsening bilateral
   infiltrates now with some apical infiltrates visualized
   Assessment and Plan
 OLIGURIA/ANURIA
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   [**Age over 90 **] y/o F with PMHx of Afib and HTN who presented with fever and
   multifocal infiltrates, now intubated for hypoxic respiratory failure.
   .
   # Hypoxic Resp Failure:  CMV o/n after another self-extubation
   yesterday, switched to PS this am with presence of airway obstruction
   on exam.  Plan SBT's with extra tubing removed from the vent setup as
   possibly too much dead space for her. Secretions difficult to assess-
   seemingly very thick and difficult to suction until after chest PT.
   Worsening multifocal infiltrates on CXR which may be progression of
   infectious process or compounded by likely possible aspirations after
   self-extubations
   - cont Vanc/Azithro, added [**Last Name (un) **] to cover for possible ESBL and cipro
   for double pseudomonas coverage
   - cefepime d/c yesterday
   - f/u blood and sputum cx
   - SBTs with removal of extra tubing
   - minimize sedation although not too low as patient has self extubated
   twice
   - increase standing nebs frequency to q2 and add steroids to relieve
   airway obstruction
   - consider bronch today to re-eval airways
   - VAP bundle
   .
   # Hypotension/low urine output: Resolved. Etiology likely
   multifactorial- possibly due to sepsis but unlikely given normal
   lactate and absence of tachycardia.  [**Month (only) 8**] have been hypovolemic as CVPs
   responded to fluid boluses but still has low urine output.  EKG without
   significant change.  Today her CVP is varying greatly with respiration
   which suggests she is not fluid overloaded.  Goal for today, even
   volume status or 500cc negative.
   - goal CVP>[**9-27**]
   - monitor UOP, goal >30cc/hr
   - trend lactates on ABGs
   .
   # R hand cyanosis: Improving since last night, suspect small R radial
   artery thrombus after multiple A-line attempts yesterday.  Radial pulse
   found by Doppler.
   -monitor R hand cap refill, perfusion
   .
   # NSTEMI: Troponins positive yesterday and trending down.  Statins
   started.   Repeat EKG normal. Suspect demand ischemia.
   - monitor EKGs
   .
   # Anemia: Stable after hct down from admission.  Suspect
   hemoconcentration on admission.  Unclear baseline and no e/o active
   bleeding currently.  Nml ferritin and decreased TIBC.
   - monitor hct
   .
   # Afib: NSR currently. Pt not on any rate control agents at baseline
   and not anticoagulated per records
   - monitor HR
   .
   # Hypothyroidism: continue Synthroid 50mg daily
   .
   # FEN: TFs, NPO
   .
   # Prophylaxis: heparin sc tid, famotidine
   .
   # Access: 2 peripherals, R subclavian CVL
   .
   # Code: full
   .
   # Communication: daughter-[**Name (NI) 4198**] [**Name (NI) **]
   .
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2145-7-21**] 08:51 PM 20 mL/hour
   Glycemic Control:  monitoring
   Lines:
   Multi Lumen - [**2145-7-19**] 06:13 PM
   18 Gauge - [**2145-7-19**] 06:15 PM
   20 Gauge - [**2145-7-19**] 06:16 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer:  famotidine
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2145-07-22 11:47:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient on assist control ventilation through the night; switched to
   PSV this AM. Has had good oxygenation on 40% supplemental oxygen. Not
   being suctioned for much secretions; with chest PT, beginning to
   mobilize some additional mucus with improved aeration.
   Antibiotics adjusted to provide double coverage for possible
   pseudomonas.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Language barrier, Intubated
   Allergies:
   Acetaminophen
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2145-7-19**] 07:07 PM
   Vancomycin - [**2145-7-21**] 08:30 AM
   Cefipime - [**2145-7-21**] 09:45 AM
   Azithromycin - [**2145-7-21**] 08:09 PM
   Meropenem - [**2145-7-22**] 08:04 AM
   Ciprofloxacin - [**2145-7-22**] 08:04 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2145-7-21**] 12:30 PM
   Heparin Sodium (Prophylaxis) - [**2145-7-21**] 02:00 PM
   Furosemide (Lasix) - [**2145-7-21**] 06:00 PM
   Midazolam (Versed) - [**2145-7-22**] 09:01 AM
   Other medications:
   albuterol, atrovent, [**Last Name (LF) 1488**], [**First Name3 (LF) 119**], simvastatin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-7-22**] 11:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 38.1
C (100.5
   HR: 78 (65 - 108) bpm
   BP: 89/34(48) {89/34(48) - 174/67(94)} mmHg
   RR: 12 (12 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
   CVP: 4 (4 - 14)mmHg
   Total In:
                                                                  3,407 mL
                                                                    861 mL
   PO:
   TF:
                                                                    271 mL
                                                                    228 mL
   IVF:
                                                                  3,056 mL
                                                                    633 mL
   Blood products:
   Total out:
                                                                  3,285 mL
                                                                    760 mL
   Urine:
                                                                  3,285 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    122 mL
                                                                    101 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 298 (298 - 298) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 64
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.31/44/90.[**Numeric Identifier 299**]/20/-4
   Ve: 5.7 L/min
   PaO2 / FiO2: 225
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic, frail
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , No(t) Crackles : , No(t) Bronchial: , Wheezes : Diffuse
   inspiratory and expiratory wheezes with prolonged exhalation, No(t)
   Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace edema, Left: Trace edema, No(t) Cyanosis,
   No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: No spontaneous
   movement, Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   300 K/uL
   124 mg/dL
   0.8 mg/dL
   20 mEq/L
   3.6 mEq/L
   17 mg/dL
   112 mEq/L
   140 mEq/L
   29.2 %
   14.8 K/uL
        [image002.jpg]
                             [**2145-7-19**]  05:56 PM
                             [**2145-7-19**]  09:54 PM
                             [**2145-7-20**]  04:11 AM
                             [**2145-7-20**]  08:09 AM
                             [**2145-7-20**]  03:32 PM
                             [**2145-7-20**]  07:45 PM
                             [**2145-7-21**]  01:18 AM
                             [**2145-7-21**]  03:54 AM
                             [**2145-7-21**]  11:04 PM
                             [**2145-7-22**]  04:08 AM
   WBC
   11.7
   10.8
   14.7
   14.8
   Hct
   26.9
   25.9
   26.5
   27.9
   28.3
   29.2
   Plt
   [**Telephone/Fax (3) 8158**]00
   Cr
   0.6
   0.7
   0.8
   0.8
   TropT
   0.25
   0.19
   0.16
   0.16
   0.15
   0.09
   TCO2
   21
   24
   24
   23
   Glucose
   153
   94
   120
   109
   124
   Other labs: PT / PTT / INR:12.5/38.1/1.1, CK / CKMB /
   Troponin-T:52/4/0.09, ALT / AST:32/33, Alk Phos / T Bili:79/0.6, Lactic
   Acid:0.9 mmol/L, Albumin:2.7 g/dL, LDH:139 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 OLIGURIA/ANURIA
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   PNEUMONIA
   ACUTE RESPIRATORY FAILURE
   ANEMIA
   ============================
   Patient with evidence of significant airway obstruction on exam. Work
   of breathing is high. Continue bronchodilators. Consider adding
   steroids. There is significant variation in the CVP trace with
   respiration suggesting that she is not volume overloaded.
   Antibiotics to be adjusted. Cefipime has been adjusted; on meropenem
   and cipro for gram negatives.
   Hct stable. Not at transfusion threshold.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2145-7-21**] 08:51 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-7-19**] 06:13 PM
   20 Gauge - [**2145-7-19**] 06:16 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2145-07-23 07:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2145-7-22**] 10:47 AM
   .
   -gas on PS in afternoon hypoxemic with elevated PaCO2 (7.25/56/29/26)
   and switched back to AC with FiO2 = 40%
   -bolused total of 2.5L LR for low UOP (40-80cc/hr), hypotension
   Allergies:
   Acetaminophen
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2145-7-21**] 08:30 AM
   Cefipime - [**2145-7-21**] 09:45 AM
   Ciprofloxacin - [**2145-7-22**] 07:25 PM
   Azithromycin - [**2145-7-22**] 07:25 PM
   Meropenem - [**2145-7-23**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2145-7-22**] 09:01 AM
   Famotidine (Pepcid) - [**2145-7-22**] 12:57 PM
   Heparin Sodium (Prophylaxis) - [**2145-7-23**] 12:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-7-23**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.8
C (98.2
   HR: 54 (54 - 92) bpm
   BP: 83/36(48) {83/34(48) - 174/67(92)} mmHg
   RR: 14 (11 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 60 Inch
    CVP: 11 (4 - 17)mmHg
   Total In:
                                                                  2,899 mL
                                                                  2,935 mL
   PO:
   TF:
                                                                    715 mL
                                                                    222 mL
   IVF:
                                                                  2,184 mL
                                                                  2,713 mL
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                    280 mL
   Urine:
                                                                  1,200 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,699 mL
                                                                  2,655 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 363 (363 - 395) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 62
   PIP: 28 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.35/37/106/20/-4
   Ve: 5.2 L/min
   PaO2 / FiO2: 265
   Physical Examination
   General: Intubated, sedated, appears volume overloaded around neck,
   face
   HEENT: Scleral edema
   Lungs- Diffuse Bilateral rhonchi with diffuse wheezes
   Heart- Regular rate and rhythm, no m/r/g
   Abd- BS+, nondistended, soft
   Ext- cool, pink , slight cap refill delay
   Labs / Radiology
   298 K/uL
   8.9 g/dL
   219 mg/dL
   0.6 mg/dL
   20 mEq/L
   4.5 mEq/L
   16 mg/dL
   108 mEq/L
   136 mEq/L
   27.9 %
   10.9 K/uL
        [image002.jpg]
                             [**2145-7-20**]  08:09 AM
                             [**2145-7-20**]  03:32 PM
                             [**2145-7-20**]  07:45 PM
                             [**2145-7-21**]  01:18 AM
                             [**2145-7-21**]  03:54 AM
                             [**2145-7-21**]  11:04 PM
                             [**2145-7-22**]  04:08 AM
                             [**2145-7-22**]  05:10 PM
                             [**2145-7-22**]  06:24 PM
                             [**2145-7-23**]  04:51 AM
   WBC
   14.7
   14.8
   10.9
   Hct
   26.5
   27.9
   28.3
   29.2
   27.9
   Plt
   [**Telephone/Fax (3) 8172**]
   Cr
   0.8
   0.8
   0.6
   TropT
   0.16
   0.16
   0.15
   0.09
   0.04
   TCO2
   24
   24
   23
   26
   21
   Glucose
   120
   109
   124
   219
   Other labs: PT / PTT / INR:12.5/38.1/1.1, CK / CKMB /
   Troponin-T:62/5/0.04, ALT / AST:32/33, Alk Phos / T Bili:79/0.6, Lactic
   Acid:1.1 mmol/L, Albumin:2.7 g/dL, LDH:139 IU/L, Ca++:7.4 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   .
   BCx: NGTD
   .
   Sputum Cx: no growth (final)
   .
   Legionella negative, MRSA positive
   .
   CXR [**2145-7-23**]: My read: worsening of bibasilar infiltrates since [**2145-7-22**],
   may represent PNA or fluid, improvement in upper lobe infiltrates
   .
   EKG QTc = 490
   Assessment and Plan
 OLIGURIA/ANURIA
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   .
   [**Age over 90 **] y/o F with PMHx of Afib and HTN with multifocal pneumonia,
   hypotension and oliguria
   .
   # Hypoxic Resp Failure: Most likely from multifocal pneumonia. Pt still
   hypoxemic on PS and was changed back to AC. Also appears fluid
   overloaded and may have mild pulm edema.
   - cont Vanc/ [**Last Name (un) **]/Cipro to cover for possible ESBL and for double
   pseudomonas coverage
   - d/c Azithromycin given QT prolongation on EKG and Legionella negative
   - Lasix 10mg IV
 will follow I/O with goal negative 500cc.
   - f/u blood and sputum cx
   - minimize sedation although not too low as patient has self extubated
   twice
   - continue standing nebs
   -Continue steroids to relieve airway obstruction
   -If pt not off ventilator by [**Last Name (un) 501**] [**2145-7-26**]
   .
   # Hypotension/low urine output: Pt with UOP 40-80cc/hr. Received 2.5L
   fluid overnight. CVP fluctuating. Etiology likely multifactorial-
   Sepsis unlikely given normal lactate and absence of tachycardia.  [**Month (only) 8**]
   have been hypovolemic as CVPs responded to fluid boluses but still has
   low urine output.  Goal for today, even volume status or 500cc
   negative.
   - Decrease sedation as UOP improves when BP is higher
   - goal CVP>[**9-27**]
   - monitor UOP, goal >30cc/hr
   - trend lactates on ABGs
   .
   # Goals of care: Daughter here yesterday.
   -Will request daughter to come in today for family meeting to discuss
   goals of care
   -If not off ventilator [**Last Name (LF) 501**], [**First Name3 (LF) 124**] do tracheostomy
   .
   # R hand cyanosis: Improving since last night, suspect small R radial
   artery thrombus after multiple A-line attempts.  Radial pulse found by
   Doppler.
   -monitor R hand cap refill, perfusion
   .
   # NSTEMI: Troponins trending down.  Statins started. Suspect demand
   ischemia.
   - Will stop following troponins
   - monitor EKGs
   .
   # Anemia: Slight Hct decrease (29
 27), likely dilutional given pt
   received 2L fluid.
   - monitor hct
   .
   # Afib: NSR currently. Pt not on any rate control agents at baseline
   and not anticoagulated per records.
   - monitor HR
   .
   # Hypothyroidism: continue Synthroid 50mg daily
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2145-7-21**] 08:51 PM 20 mL/hour
   Glycemic Control:  ISS
   Lines:
   Multi Lumen Subclavian - [**2145-7-19**] 06:13 PM
   18 Gauge - [**2145-7-19**] 06:15 PM
   20 Gauge - [**2145-7-19**] 06:16 PM
   Prophylaxis:
   DVT: heparin, pneumoboots
   Stress ulcer:  famotidine
   VAP:  bundle
   Comments:
   Communication:  Comments:  Daughter
 [**First Name8 (NamePattern2) 4198**] [**Known lastname **]
   [**Last Name (NamePattern1) 156**] status: Full code
   Disposition: ICU for now

2145-07-23 11:47:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory failure, pneumonia, expiratory
   airflow obstruction, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient placed on assist control because of rising PaCO2 on PSV.
   Oxygenation stable on FIO2=0.4.
   Has been hemodynamically stable.
   WBC is down.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2145-7-22**] 10:47 AM
   History obtained from Medical records
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   Acetaminophen
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2145-7-21**] 09:45 AM
   Azithromycin - [**2145-7-22**] 07:25 PM
   Meropenem - [**2145-7-23**] 08:00 AM
   Vancomycin - [**2145-7-23**] 08:30 AM
   Ciprofloxacin - [**2145-7-23**] 09:39 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2145-7-22**] 12:57 PM
   Heparin Sodium (Prophylaxis) - [**2145-7-23**] 08:54 AM
   Other medications:
   thyroxine, ASA, colace, simvastatin, cipro, solumedrol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-7-23**] 11:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 34.4
C (94
   HR: 74 (48 - 85) bpm
   BP: 157/57(77) {83/35(48) - 168/71(88)} mmHg
   RR: 15 (11 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
   CVP: 10 (5 - 17)mmHg
   Total In:
                                                                  2,899 mL
                                                                  3,694 mL
   PO:
   TF:
                                                                    715 mL
                                                                    459 mL
   IVF:
                                                                  2,184 mL
                                                                  3,235 mL
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                    345 mL
   Urine:
                                                                  1,200 mL
                                                                    345 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,699 mL
                                                                  3,349 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 363 (363 - 395) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 62
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   SpO2: 100%
   ABG: 7.35/37/106/20/-4
   Ve: 5.3 L/min
   PaO2 / FiO2: 265
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : Coarse, diffuse, No(t) Bronchial: , Wheezes :
   Expiratory, diffuse, No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace edema, Left: Trace edema, No(t) Cyanosis,
   No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   298 K/uL
   219 mg/dL
   0.6 mg/dL
   20 mEq/L
   4.5 mEq/L
   16 mg/dL
   108 mEq/L
   136 mEq/L
   27.9 %
   10.9 K/uL
        [image002.jpg]
                             [**2145-7-20**]  08:09 AM
                             [**2145-7-20**]  03:32 PM
                             [**2145-7-20**]  07:45 PM
                             [**2145-7-21**]  01:18 AM
                             [**2145-7-21**]  03:54 AM
                             [**2145-7-21**]  11:04 PM
                             [**2145-7-22**]  04:08 AM
                             [**2145-7-22**]  05:10 PM
                             [**2145-7-22**]  06:24 PM
                             [**2145-7-23**]  04:51 AM
   WBC
   14.7
   14.8
   10.9
   Hct
   26.5
   27.9
   28.3
   29.2
   27.9
   Plt
   [**Telephone/Fax (3) 8172**]
   Cr
   0.8
   0.8
   0.6
   TropT
   0.16
   0.16
   0.15
   0.09
   0.04
   TCO2
   24
   24
   23
   26
   21
   Glucose
   120
   109
   124
   219
   Other labs: PT / PTT / INR:12.5/38.1/1.1, CK / CKMB /
   Troponin-T:62/5/0.04, ALT / AST:32/33, Alk Phos / T Bili:79/0.6, Lactic
   Acid:1.1 mmol/L, Albumin:2.7 g/dL, LDH:139 IU/L, Ca++:7.4 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR: bibasilar infiltrates. No signficant change from
   yesterday.
   Assessment and Plan
 OLIGURIA/ANURIA
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ACUTE RESPIRATORY FAILURE
   ANEMIA
   AIRFLOW OBSTRUCTION
   ========================
   Patient's ABGs improved with assist control. Airflow obstruction seems
   a bit better on exam now that steroids started.  Will also try to
   diurese today; BUN/creat ratio is low - will try to achieve negative
   fluid balance for the day of 0.5L.
   Hct stable. No evidence of bleeding. Not at transfusion threshold.
   Try to reduce sedation a bit; patient tends to urinate better when BP a
   little higher.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2145-7-23**] 05:09 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2145-7-19**] 06:13 PM
   20 Gauge - [**2145-7-19**] 06:16 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2145-07-24 07:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Made DNR yesterday by daughter.
   Allergies:
   Acetaminophen
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2145-7-21**] 09:45 AM
   Azithromycin - [**2145-7-22**] 07:25 PM
   Vancomycin - [**2145-7-23**] 08:30 AM
   Ciprofloxacin - [**2145-7-23**] 08:53 PM
   Meropenem - [**2145-7-24**] 02:08 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2145-7-23**] 11:58 AM
   Furosemide (Lasix) - [**2145-7-23**] 12:28 PM
   Heparin Sodium (Prophylaxis) - [**2145-7-23**] 08:30 PM
   Fentanyl - [**2145-7-24**] 06:20 AM
   Midazolam (Versed) - [**2145-7-24**] 06:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-7-24**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36
C (96.8
   HR: 59 (52 - 94) bpm
   BP: 102/39(53) {86/34(48) - 170/71(94)} mmHg
   RR: 13 (0 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 60 Inch
    CVP: 8 (5 - 14)mmHg
   Total In:
                                                                  4,804 mL
                                                                    428 mL
   PO:
   TF:
                                                                    960 mL
                                                                    246 mL
   IVF:
                                                                  3,799 mL
                                                                    182 mL
   Blood products:
   Total out:
                                                                    698 mL
                                                                    210 mL
   Urine:
                                                                    698 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,106 mL
                                                                    218 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 205 (205 - 205) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 80
   PIP: 18 cmH2O
   Plateau: 23 cmH2O
   SpO2: 100%
   ABG: ////  Satting 100% on AC at 350 by 14 at FiO2 40% and Peep of 5.
   Ve: 5.1 L/min
   Physical Examination
   General: Intubated, sedated, appears volume overloaded around neck,
   face
   HEENT: Scleral edema
   Lungs- Diffuse Bilateral rhonchi with diffuse wheezes
   Heart- Regular rate and rhythm, no m/r/g
   Abd- BS+, nondistended, soft
   Ext- cool, pink , slight cap refill delay
   Labs / Radiology
   298 K/uL
   8.9 g/dL
   219 mg/dL
   0.6 mg/dL
   20 mEq/L
   4.5 mEq/L
   16 mg/dL
   108 mEq/L
   136 mEq/L
   27.9 %
   10.9 K/uL
        [image002.jpg]
   [**2145-7-23**]. No labs from [**2145-7-24**].
                             [**2145-7-20**]  08:09 AM
                             [**2145-7-20**]  03:32 PM
                             [**2145-7-20**]  07:45 PM
                             [**2145-7-21**]  01:18 AM
                             [**2145-7-21**]  03:54 AM
                             [**2145-7-21**]  11:04 PM
                             [**2145-7-22**]  04:08 AM
                             [**2145-7-22**]  05:10 PM
                             [**2145-7-22**]  06:24 PM
                             [**2145-7-23**]  04:51 AM
   WBC
   14.7
   14.8
   10.9
   Hct
   26.5
   27.9
   28.3
   29.2
   27.9
   Plt
   [**Telephone/Fax (3) 8172**]
   Cr
   0.8
   0.8
   0.6
   TropT
   0.16
   0.16
   0.15
   0.09
   0.04
   TCO2
   24
   24
   23
   26
   21
   Glucose
   120
   109
   124
   219
   Other labs: PT / PTT / INR:12.5/38.1/1.1, CK / CKMB /
   Troponin-T:62/5/0.04, ALT / AST:32/33, Alk Phos / T Bili:79/0.6, Lactic
   Acid:1.1 mmol/L, Albumin:2.7 g/dL, LDH:139 IU/L, Ca++:7.4 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 OLIGURIA/ANURIA
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   .
   [**Age over 90 **] y/o F with PMHx of Afib and HTN with multifocal pneumonia,
   hypotension and oliguria. Made DNR yesterday, awaiting arrival of other
   daughter from [**Name (NI) 3987**].
   .
   # Goals of care: Daughter here yesterday. Made DNR yesterday with no
   further escalation of care, awaiting arrival of other daughter from
   [**Name (NI) 3987**]
   -Plan for terminal extubation today.
   .
   # Hypoxic Resp Failure: Most likely from multifocal pneumonia. No vent
   changes made overnight. No blood draws done.
   - cont Vanc/ [**Last Name (un) **]/Cipro to cover for possible ESBL and for double
   pseudomonas coverage
   - Plan for terminal extubation after other daughter arrives.
   .
   # Hypotension/low urine output: UOP approx 30-60cc/hr. No additional
   fluids or lasix given
   -No further management of u/o
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2145-7-21**] 08:51 PM 20 mL/hour
   Glycemic Control:  ISS
   Lines:
   Multi Lumen Subclavian - [**2145-7-19**] 06:13 PM
   18 Gauge - [**2145-7-19**] 06:15 PM
   20 Gauge - [**2145-7-19**] 06:16 PM
   Prophylaxis:
   DVT: heparin, pneumoboots
   Stress ulcer:  famotidine
   VAP:  bundle
   Comments:
   Communication:  Comments:  Daughter
 [**First Name8 (NamePattern2) 4198**] [**Known lastname **]
   [**Last Name (NamePattern1) 156**] status: Full code
   Disposition: ICU for now

2145-07-24 11:37:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, pneumonia, COPD.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No changes in patient's condition overnight. Family congregating before
   ventilatory support will be withdrawan.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Intubated
   Allergies:
   Acetaminophen
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2145-7-22**] 07:25 PM
   Vancomycin - [**2145-7-24**] 08:03 AM
   Meropenem - [**2145-7-24**] 10:14 AM
   Ciprofloxacin - [**2145-7-24**] 10:14 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2145-7-23**] 11:58 AM
   Furosemide (Lasix) - [**2145-7-23**] 12:28 PM
   Fentanyl - [**2145-7-24**] 06:20 AM
   Midazolam (Versed) - [**2145-7-24**] 06:20 AM
   Heparin Sodium (Prophylaxis) - [**2145-7-24**] 08:04 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-7-24**] 11:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.7
C (96.3
   HR: 54 (51 - 94) bpm
   BP: 109/43(59) {86/34(48) - 170/70(94)} mmHg
   RR: 13 (0 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 60 Inch
   CVP: 8 (5 - 14)mmHg
   Total In:
                                                                  4,804 mL
                                                                  1,075 mL
   PO:
   TF:
                                                                    960 mL
                                                                    343 mL
   IVF:
                                                                  3,799 mL
                                                                    731 mL
   Blood products:
   Total out:
                                                                    698 mL
                                                                    210 mL
   Urine:
                                                                    698 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,106 mL
                                                                    865 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 205 (205 - 205) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 80
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 5.7 L/min
   Physical Examination
   Patient intubated and sedated. No respiratory distress on assist
   control.
   Labs / Radiology
   8.9 g/dL
   298 K/uL
   219 mg/dL
   0.6 mg/dL
   20 mEq/L
   4.5 mEq/L
   16 mg/dL
   108 mEq/L
   136 mEq/L
   27.9 %
   10.9 K/uL
        [image002.jpg]
                             [**2145-7-20**]  08:09 AM
                             [**2145-7-20**]  03:32 PM
                             [**2145-7-20**]  07:45 PM
                             [**2145-7-21**]  01:18 AM
                             [**2145-7-21**]  03:54 AM
                             [**2145-7-21**]  11:04 PM
                             [**2145-7-22**]  04:08 AM
                             [**2145-7-22**]  05:10 PM
                             [**2145-7-22**]  06:24 PM
                             [**2145-7-23**]  04:51 AM
   WBC
   14.7
   14.8
   10.9
   Hct
   26.5
   27.9
   28.3
   29.2
   27.9
   Plt
   [**Telephone/Fax (3) 8172**]
   Cr
   0.8
   0.8
   0.6
   TropT
   0.16
   0.16
   0.15
   0.09
   0.04
   TCO2
   24
   24
   23
   26
   21
   Glucose
   120
   109
   124
   219
   Other labs: PT / PTT / INR:12.5/38.1/1.1, CK / CKMB /
   Troponin-T:62/5/0.04, ALT / AST:32/33, Alk Phos / T Bili:79/0.6, Lactic
   Acid:1.1 mmol/L, Albumin:2.7 g/dL, LDH:139 IU/L, Ca++:7.4 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 OLIGURIA/ANURIA
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ACUTE RESPIRATORY FAILURE
   PNEUMONIA
   COPD
   ====================
   Patient comfortable. Family here. They wish her to be extubated and
   kept comfortable with no additional therapy.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2145-7-24**] 08:55 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-7-19**] 06:13 PM
   20 Gauge - [**2145-7-19**] 06:16 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 20 minutes